US08022208B2
4-(1-{2-[4-(tert-butoxycarbonyl)piperazin-1-yl]ethyl}-2-oxo-1,2-dihydropyridin-3-yl)benzoic acid (731 mg) was dissolved in N,N-dimethylformamide (15 mL), 1-hydroxybenzotriazole (253 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (359 mg) and triethylamine (261 μL) were added, and 2-amino-N-(5-chloro-2-pyridinyl)-3-hydroxybenzamide (412 mg) was added, followed by stirring at room temperature for 7 hours. Water was added to the reaction mixture, and the precipitate formed was collected by filtration and washed with water. The resulting solid was dried under reduced pressure and dissolved in tetrahydrofuran (15 mL), and acetic acid (448 μL) was added, followed by stirring at 60° C. for 5 hours. The reaction mixture was concentrated under reduced pressure, and then azeotroped twice with toluene. The residue was purified by NH-silica gel column chromatography (methanol/chloroform=0% to 5%). The resulting compound was dissolved in ethyl acetate (10 mL), and 4 N hydrochloric acid/ethyl acetate (3.88 mL) was added, followed by stirring at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure, and aqueous saturated sodium hydrogencarbonate solution was added to the residue, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by NH-silica gel column chromatography (methanol/chloroform=0% to 5%) to obtain N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide (867 mg) as a yellow white solid.

reactant | 4-(1-{2-[4-(tert-butoxycarbonyl)piperazin-1-yl]ethyl}-2-oxo-1,2-dihydropyridin-3-yl)benzoic acid | 731 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1C(C(=CC=C1)C1=CC=C(C(=O)O)C=C1)=O | C23H29N3O5
reactant | 1-hydroxybenzotriazole | 253 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 359 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-N-(5-chloro-2-pyridinyl)-3-hydroxybenzamide | 412 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1O | C12H10ClN3O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 261 μL | C(C)N(CC)CC | C6H15N
product | N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide | 867 mg | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCNCC1)=O)=O)=O | C30H29ClN6O4
